US06468607B1
25.0 g of 6-(3,4,5-trifluorophenyl)naphthalene-2-yl trifluoromethanesulfonate and 1-ethynyl-4-propylcyclohexane were dissolved in a mixture of 125 ml of N,N-dimethylformamide and 25 ml of triethylamine. To the solution were then added 0.7 g of tetrakis(triphenylphosphine)palladium and 0.2 g of copper iodide (I). The reaction mixture was then stirred at a temperature of 50° C. for 3 hours. The reaction solution was then allowed to cool to room temperature. To the reaction solution was then added 150 ml of water. The reaction solution was extracted with 200 ml of toluene, washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was then recrystallized from ethanol to obtain 17.6 g of 2-(trans-4-propylcyclohexyl)ethynyl-6-(3,4,5-trifluorophenyl)naphthalene.

reactant | 6-(3,4,5-trifluorophenyl)naphthalene-2-yl trifluoromethanesulfonate | 25.0 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=CC(=C(C(=C1)F)F)F)(F)F | C17H8F6O3S
reactant | 1-ethynyl-4-propylcyclohexane | C(#C)C1CCC(CC1)CCC | C11H18
reactant | water | 150 ml | O | H2O
reactant | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.2 g | [Cu](I)I
product | 2-(trans-4-propylcyclohexyl)ethynyl-6-(3,4,5-trifluorophenyl)naphthalene | 17.6 g | C(CC)[C@@H]1CC[C@H](CC1)C#CC1=CC=CC2=CC(=CC=C12)C1=CC(=C(C(=C1)F)F)F | C27H25F3
